US05109012
2,6-Dichloro-4-trifluoromethylphenylhydrazine (6.6 g) and 1-hexene-4,5-dione 4-oxime (3.4 g) were stirred in diethyl ether (200 ml) for 18 hours. The solvent was removed under reduced pressure to give 1-hexene-4,5-dione 5-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 4-oxime, m.p. 86°-88°.

reactant | 2,6-Dichloro-4-trifluoromethylphenylhydrazine | 6.6 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 1-hexene-4,5-dione 4-oxime | 3.4 g | C=CCC(C(C)=O)=NO | C6H9NO2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-hexene-4,5-dione 5-(2,6-dichloro-4-trifluoromethylphenylhydrazone) 4-oxime | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN=C(C(CC=C)=NO)C | C13H12Cl2F3N3O
